US08937078B2
Step D: Preparation of 1-[7-chloro-6-(3,4-dihydro-1H-isoquinolin-2-yl)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid, ethyl ester.
A solution of 1-{[4-chloro-3-(3,4-dihydro-1H-isoquinolin-2-yl)-benzoylamino]-ethoxycarbonylimino-methyl}-1H-pyrazole-4-carboxylic acid, ethyl ester (1.2 g, 2.4 mmol), DCE (5 mL) and chlorotrimethylsilane (2.8 mL, 22 mmol) was heated to 110° C. for 16 h in a sealed tube. The vessel was cooled in an ice bath for 1 h, and the resulting precipitate was collected by filtration, washed with cold DCE, and dried under vacuum to provide the titled compound (0.40 g, 19%). MS (ESI): mass calcd. for C23H20ClN5O3, 449.9; m/z found, 450.1 [M+H]+.

reactant | 1-{[4-chloro-3-(3,4-dihydro-1H-isoquinolin-2-yl)-benzoylamino]-ethoxycarbonylimino-methyl}-1H-pyrazole-4-carboxylic acid, ethyl ester | 2.4 mmol, 1.2 g | ClC1=C(C=C(C(=O)NC(N2N=CC(=C2)C(=O)OCC)=NC(=O)OCC)C=C1)N1CC2=CC=CC=C2CC1 | C26H26ClN5O5
reactant | chlorotrimethylsilane | 22 mmol, 2.8 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 1-[7-chloro-6-(3,4-dihydro-1H-isoquinolin-2-yl)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid, ethyl ester | 0.40 g, 19% | ClC1=C(C=C2C(NC(=NC2=C1)N1N=CC(=C1)C(=O)OCC)=O)N1CC2=CC=CC=C2CC1 | C23H20ClN5O3
